US04918070
2.29 g (3.01 mmol) of p-methoxybenzyl 7β-[2-(2-tritylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-hydroxy -3-cephem-4-carboxylate and 982 mg (3.75 mmol) of triphenylphosphine were dissolved in 48 ml of tetrahydrofuran, and a solution of 408 mg (3.74 mmol) of 4-pyridinemethanol in 24 ml of tetrahydrofuran was added thereto at room temperature under nitrogen atmosphere. Then, a solution of 0.58 ml (3.67 mmol) of diethylazodicarboxylate in 24 ml of tetrahydrofuran was dropwise added thereto at room temperature, and the mixture was stirred for 2 hours at the same temperature. The solvent was distilled off. The residue was dissolved in ethyl acetate, washed sequentially with water, a saturated sodium hydrogencarbonate aqueous solution and a saturated sodium chloride aqueous solution and dried over magnesium sulfate. The solvent was distilled off and the residue was purified by silica gel column chromatography (Wakogel C-300, elution with 1% methanol-chloroform) to obtain 1.46 g (yield: 56.9%) of p-methoxybenzyl 7β-[2-(2-tritylaminothiazol-4-yl)-(Z) -2-methoxyiminoacetamido]-3-(4-pyridylmethoxy) -3-cephem-4-carboxylate as a light yellow powder. 660 mg (0.774 mmol) of this powder was dissolved in 4.1 ml of dichloromethane and 0.9 ml of anisole, and 6.6 ml of trifluoroacetic acid was dropwise added thereto under cooling with ice. The mixture was stirred for 1 hour at the same temperature. The solvent was distilled off, and isopropyl ether was added to the residue to obtain the trifluoroacetate of the above-identified compound as a powder. This trifluoroacetate was dissolved in water and adjusted to pH6.5 with a sodium hydrogencarbonate aqueous solution. The solution was purified by reversed phase column chromatography (Chemco LC-SORB, SP-B-ODS, elution with 20% methanol aqueous solution) and freeze-dried to obtain 221 mg (yield: 55.7%) of the above-identified compound.

reactant | p-methoxybenzyl 7β-[2-(2-tritylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-hydroxy -3-cephem-4-carboxylate | 3.01 mmol, 2.29 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)O)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/OC | C40H35N5O7S2
reactant | triphenylphosphine | 3.75 mmol, 982 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-pyridinemethanol | 3.74 mmol, 408 mg | N1=CC=C(C=C1)CO | C6H7NO
reactant | diethylazodicarboxylate | 3.67 mmol, 0.58 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 48 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
product | p-methoxybenzyl 7β-[2-(2-tritylaminothiazol-4-yl)-(Z) -2-methoxyiminoacetamido]-3-(4-pyridylmethoxy) -3-cephem-4-carboxylate | 1.46 g, yield: 56.9% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)OCC2=CC=NC=C2)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/OC | C46H40N6O7S2
